US03950528
3-Amino-1-(3-iodobenzyl)-pyrazol-5-one ##SPC30##
A solution of 45 g of m-iodobenzylhydrazine in 70 ml of ethanol was added dropwise to a solution of 28.6 g of β-amino-β-ethoxyacrylic acid ethyl ester and 1.5 g of p-toluenesulphonic acid in 350 ml of ethanol. After stirring overnight, the compound identified above had separated out as a precipitate and was filtered off and recrystallised from ethanol. Melting point: 186°, 16 g (28%).

reactant | m-iodobenzylhydrazine | 45 g | IC=1C=C(CNN)C=CC1 | C7H9IN2
reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 28.6 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | p-toluenesulphonic acid | 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | ethanol | 350 ml | C(C)O | C2H6O
product | 3-Amino-1-(3-iodobenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=CC(=CC=C1)I | C10H10IN3O
